US06403601B1
(b) 3-Methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A solution of methyl 3-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (0.90 g, 4.09 mmol) in THF (50 mL), water (20 mL) and 1N NaOH (8.6 mL, 8.6 mmol) was stirred for 3 days at room temperature. The THF was evaporated and the mixture acidified to pH 1 with 1N HCl. The resulting precipitate was extracted with EtOAc, dried (MgSO4), filtered and concentrated to give the acid as a white solid (0.80 g, 95%). 1H NMR (DMSO) δ 12.79 (s, 1H), 7.09 (d, 1H), 6.82 (d, 1H), 3.73 (s, 3H), 2.86 (s, 2H), 2.74 (s, 2H), 1.68 (m, 4H); MS m/z 205 (M−H).

reactant | methyl 3-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 4.09 mmol, 0.90 g | COC=1C=C(C=2CCCCC2C1)C(=O)OC | C13H16O3
reactant | NaOH | 8.6 mmol, 1N, 8.6 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 3-Methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.80 g, 95% | COC=1C=C(C=2CCCCC2C1)C(=O)O | C12H14O3
